*$
* OPA2156
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA2156
* Date: 18APR2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS900B -SEPTEMBER 2018-REVISED JUNE 2019
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Modified the capacitor(C14) value from 1F to 1uF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Added R-diff, updated series resistors (RS_INN, RS_INP) from 10m to 
*    250ohms and updated PSRR DC gain as per the datasheet.
* 3. Updated Aol to match the GBW and DC gain as per the datasheet.
* 4. Updated CLAW curves.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
* 2. There should be two separate instances of OPA2156 to accurately
*    match the product of OPA2156. 
*****************************************************************************
* connections:        non-inverting input
*                     |   inverting input
*                     |   |    positive power supply
*                     |   |   |   negative power supply
*                     |   |   |   |   output
*                     |   |   |   |   |
.subckt OPAMP_SINGLE  IN+ IN- VCC VEE OUT
*****************************************************************************
C_C10          N5221534 N5221538  11.4U   
C_C108         N5221670 MID  1.0E-17   
C_C11          MID N53229461  9.36P   
C_C123         N5221736 N5220566  187.2P   
C_C126         N5231986 N5231976  23.41N   
C_C128         N5221778 MID  1.0E-16   
C_C13          N5221352 0  1F   
C_C130         MID N53210501  79.6F   
C_C131         N5221836 N5221656  15.9F   
C_C133         N5231966 N5220568  531P   
C_C134         MID N53216461  6.92P   
C_C135         N5263447 N5221462  1.305P   
C_C136         N5290336 N5290346  14.47N   
C_C137         N5290356 N5220542  8.842P   
C_C14          0 N5221330  1U   
C_C15          N5221368 0  1F   
C_C16          N5220702 MID  1F   
C_C17          N5220726 MID  1F   
C_C18          N5220772 MID  1F   
C_C19          N5220792 MID  1F   
C_C20          N5220868 MID  1F   
C_C21          N5220886 MID  1F   
C_C22          MID N5220930  1F   
C_C23          N5220994 MID  1F   
C_C24          N5220990 MID  1F   
C_C25          N5221054 MID  1P   
C_C26          N5221060 MID  1P   
C_C27          SW_OL_OPA2156 MID  100P   
C_C29          VIMON MID  1N   
C_C30          VOUT_S MID  1N   
C_C4           N5220634 MID  1F   
C_C5           CLAMP MID  357N   
C_C70          VCLP MID  100P   
C_C_COM0       ESDP MID  1.9P   
C_C_COM1       MID ESDN  1.9P   
C_C_DIFF       ESDN ESDP  9.1P   
E_E1           MID 0 N5221330 0 1
E_E3           N5221120 MID OUT MID 1
E_E4           N5221526 MID CL_CLAMP MID 1
G_G101         N5221778 MID N5221670 MID -1U
G_G103         N5221808 MID N5221696 MID -1
G_G104         N5221836 MID N5221816 MID -1
G_G106         N5231966 MID N5231976 MID -167
G_G107         N5259537 MID VSENSE MID -1
G_G108         N5263447 MID N5221778 MID -1.311
G_G109         N5290336 MID ESDP MID -18.18M
G_G110         N5290356 MID N5290346 MID -8.889
G_G12          CLAW_CLAMP MID N5221462 MID -1M
G_G13          CL_CLAMP MID CLAW_CLAMP MID -1M
G_G18          VCC_B 0 VCC 0 -1
G_G19          VEE_B 0 VEE 0 -1
G_G2           N5220550 N5220544 N5220542 MID -1M
G_G20          VCC_CLP MID N5220994 MID -1M
G_G21          VEE_CLP MID N5220990 MID -1M
G_G22          N5221254 MID N5221250 MID -1
G_G23          N5221278 MID N5221286 MID -1
G_G39          N5221534 MID CL_CLAMP N5221190 -189
G_G5           N5220574 N5220570 N5220568 N5220566 -1M
G_G6           VSENSE MID CLAMP MID -1M
G_G79          N5221670 MID N5221668 MID -1U
G_G86          N5221694 MID N5221538 MID -279
G_G96          N5221736 MID VEE_B MID -372M
G_G99          N5231986 MID VCC_B MID -2.097M
I_I_B          N5214286 MID DC 5.25P  
I_I_OS         ESDN MID DC 2.75P  
I_I_Q          VCC VEE DC 4.4M  
R_R-DIFF       ESDN ESDP R_NOISELESS 100MEG
R_R15          N5220570 N5220550 R_NOISELESS 1M
R_R16          N5220574 N5220570 R_NOISELESS 1K
R_R167         N5221526 VCLP R_NOISELESS 100
R_R17          N5220596 ESDN R_NOISELESS 1M
R_R18          MID N5220600 R_NOISELESS 1T
R_R19          MID N5220612 R_NOISELESS 1T
R_R20          N5220620 MID R_NOISELESS 1
R_R21          N5220634 N5220620 R_NOISELESS 1M
R_R22          MID N5220644 R_NOISELESS 1MEG
R_R23          MID CLAMP R_NOISELESS 1MEG
R_R24          MID VSENSE R_NOISELESS 1K
R_R266         MID N5221670 R_NOISELESS 1MEG
R_R297         N5220566 N5221736 R_NOISELESS 100MEG
R_R300         MID N5220566 R_NOISELESS 85
R_R301         MID N5221736 R_NOISELESS 1
R_R306         MID N5221694 R_NOISELESS 1
R_R308         N5231976 N5231986 R_NOISELESS 10K
R_R309         MID N5231986 R_NOISELESS 1
R_R310         MID N5231976 R_NOISELESS 1.508
R_R314         MID N5221778 R_NOISELESS 1MEG
R_R316         N5221816 N5221808 R_NOISELESS 12.2K
R_R317         N53210501 N5221816 R_NOISELESS 10K
R_R318         MID N5221808 R_NOISELESS 1
R_R319         N5221656 N5221836 R_NOISELESS 10K
R_R32          MID CLAW_CLAMP R_NOISELESS 1K
R_R320         MID N5221836 R_NOISELESS 1
R_R321         MID N5221656 R_NOISELESS 101
R_R325         N5220568 N5231966 R_NOISELESS 10K
R_R326         MID N5220568 R_NOISELESS 60.4
R_R327         MID N5231966 R_NOISELESS 1
R_R328         N5221668 N5259537 R_NOISELESS 3.53K
R_R329         N53216461 N5221668 R_NOISELESS 10K
R_R33          MID CL_CLAMP R_NOISELESS 1K
R_R330         MID N5259537 R_NOISELESS 1
R_R331         N5221462 N5263447 R_NOISELESS 10K
R_R332         MID N5263447 R_NOISELESS 1
R_R333         MID N5221462 R_NOISELESS 32.11K
R_R334         N5290346 N5290336 R_NOISELESS 10K
R_R335         N5220542 N5290356 R_NOISELESS 10K
R_R336         MID N5290336 R_NOISELESS 1
R_R337         MID N5290346 R_NOISELESS 550M
R_R338         MID N5290356 R_NOISELESS 1
R_R339         MID N5220542 R_NOISELESS 1.268K
R_R34          N5221538 N5221534 R_NOISELESS 10K
R_R35          MID N5221534 R_NOISELESS 1
R_R36          MID N5221538 R_NOISELESS 36
R_R38          N5221696 N5221694 R_NOISELESS 990K
R_R39          N53229461 N5221696 R_NOISELESS 10K
R_R43          MID N5221574 R_NOISELESS 1
R_R46          VCC_B 0 R_NOISELESS 1
R_R47          VCC_B N5221352 R_NOISELESS 1M
R_R48          N5221352 N5221330 R_NOISELESS 1MEG
R_R49          N5221330 0 R_NOISELESS 1T
R_R50          N5221330 N5221368 R_NOISELESS 1MEG
R_R51          N5221368 VEE_B R_NOISELESS 1M
R_R52          VEE_B 0 R_NOISELESS 1
R_R53          VCC_CLP MID R_NOISELESS 1T
R_R54          N5220690 MID R_NOISELESS 1
R_R55          N5220702 N5220690 R_NOISELESS 1M
R_R56          VEE_CLP MID R_NOISELESS 1T
R_R57          N5220724 MID R_NOISELESS 1
R_R58          N5220726 N5220724 R_NOISELESS 1M
R_R59          N5220768 MID R_NOISELESS 1T
R_R60          N5220770 MID R_NOISELESS 1
R_R61          N5220772 N5220770 R_NOISELESS 1M
R_R62          N5220792 N5220798 R_NOISELESS 1M
R_R63          N5220810 MID R_NOISELESS 1T
R_R64          N5220798 MID R_NOISELESS 1
R_R65          N5220862 MID R_NOISELESS 1T
R_R66          N5220866 MID R_NOISELESS 1
R_R67          N5220868 N5220866 R_NOISELESS 1M
R_R68          N5220886 N5220892 R_NOISELESS 1M
R_R69          N5220904 MID R_NOISELESS 1T
R_R70          N5220892 MID R_NOISELESS 1
R_R71          N5220930 VSENSE R_NOISELESS 1M
R_R72          VCC_B N5220958 R_NOISELESS 1K
R_R73          N5220958 N5220994 R_NOISELESS 1M
R_R74          N5220962 VEE_B R_NOISELESS 1K
R_R75          N5220962 N5220990 R_NOISELESS 1M
R_R76          MID VCC_CLP R_NOISELESS 1K
R_R77          VEE_CLP MID R_NOISELESS 1K
R_R78          N5221278 MID R_NOISELESS 1
R_R79          N5221254 MID R_NOISELESS 1
R_R8           N5220550 N5220544 R_NOISELESS 1K
R_R80          V11 N5221054 R_NOISELESS 100
R_R81          V12 N5221060 R_NOISELESS 100
R_R82          N5221066 MID R_NOISELESS 1
R_R83          N5221066 SW_OL_OPA2156 R_NOISELESS 100
R_RDUMMY       MID N5221190 R_NOISELESS 2K
R_RS_INN       IN- ESDN R_NOISELESS 250
R_RS_INP       IN+ ESDP R_NOISELESS 250
R_RX           N5221190 N5221574 R_NOISELESS 20K
R_RX1          MID N5221108 R_NOISELESS 1T
R_RX2          VIMON N5221108 R_NOISELESS 100
R_RX3          MID N5221120 R_NOISELESS 1T
R_RX4          VOUT_S N5221120 R_NOISELESS 100
R_R_CM1        ESDP MID R_NOISELESS 1T
R_R_CM2        MID ESDN R_NOISELESS 1T
V_VCM_MAX      N5220600 VCC_B 100M
V_VCM_MIN      N5220612 VEE_B -100M
V_V_GRN        N5220904 MID -60
V_V_GRP        N5220862 MID 60
V_V_ISCN       N5220810 MID -102.4
V_V_ISCP       N5220768 MID 92
V_V_ORN        N5221250 VCLP -2.5
V_V_ORP        N5221286 VCLP 2.1
X_H1           N5221190 OUT N5221108 MID BLOCK_DC_H1_OPA2156 
X_H2           N5221242 N5221278 V12 MID BLOCK_DC_H2_OPA2156 
X_H3           N5221222 N5221254 V11 MID BLOCK_DC_H3_OPA2156 
X_S1           N5221222 CLAMP N5221222 CLAMP BLOCK_DC_S1_OPA2156 
X_S2           CLAMP N5221242 CLAMP N5221242 BLOCK_DC_S2_OPA2156 
X_U1           ESDP N5214286 VNSE_OPA2156 PARAMS: FLW=0.01 GLF=0.514 RNV=9.415
X_U10          VCC_CLP VEE_CLP VOUT_S MID N5220690 N5220724 CLAMP_AMP_LO_OPA2156 PARAMS:
+  G=1
X_U11          N5220768 N5220810 VIMON MID N5220770 N5220798 CLAMP_AMP_LO_OPA2156
+  PARAMS: G=1
X_U12          N5220862 N5220904 N5220930 MID N5220866 N5220892 CLAMP_AMP_HI_OPA2156
+  PARAMS: G=10
X_U16          MID N5221066 N5221054 N5221060 OL_SENSE_OPA2156
X_U18          VIMON MID N5220958 VCC_B CLAWP_OPA2156
X_U19          MID VIMON VEE_B N5220962 CLAWN_OPA2156
X_U21          OUT VCC VEE ESD_OUT_OPA2156
X_U22          N5220772 N5220792 CL_CLAMP MID CL_SRC_OPA2156 PARAMS: GAIN=1 IPOS=0.24E1
+  INEG=-0.24E1
X_U23          N5220868 N5220886 CLAMP MID GR_SRC_OPA2156 PARAMS: GAIN=1 IPOS=8.82E1
+  INEG=-8.82E1
X_U25          SW_OL_OPA2156 MID N5221534 N5221538 SW_OL_OPA2156
X_U26          VIMON MID VCC MID IQ_SRC_OPA2156 PARAMS: GAIN=1E-3
X_U27          MID VIMON MID VEE IQ_SRC_OPA2156 PARAMS: GAIN=1E-3
X_U30          N5220634 N5220596 MID N5220644 AOL_1_OPA2156 PARAMS: GAIN=1E-4 IPOS=.5
+  INEG=-.5
X_U31          N5220644 MID MID CLAMP AOL_2_OPA2156 PARAMS: GAIN=0.558 IPOS=15.45
+  INEG=-15.57
X_U32          N5221656 MID MID N5221574 ZO_SRC_OPA2156 PARAMS: GAIN=1E2 IPOS=4E5
+  INEG=-4E5
X_U35          N5220702 N5220726 CLAW_CLAMP MID CLAW_SRC_OPA2156 PARAMS: GAIN=1
+  IPOS=0.12E1 INEG=-0.12E1
X_U36          MID N5214286 FEMT_OPA2156 PARAMS: NVRF=19.2
X_U37          ESDN MID FEMT_OPA2156 PARAMS: NVRF=19.2
X_U38          N5220544 N5221878 VCC VEE VOS_VS_VCM_OPA2156
X_U4           N5221878 N5214286 VOS_DRIFT_OPA2156 PARAMS: DC=13.6E-6 POL=1 DRIFT=5E-7
X_U5           ESDN ESDP VCC VEE ESD_IN_OPA2156
X_U6           N5220574 MID N5220620 MID N5220600 N5220612 VCM_CLAMP_OPA2156 PARAMS:
+  GAIN=1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.ENDS OPA2156
*
.SUBCKT BLOCK_DC_H1_OPA2156 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_OPA2156
*
.SUBCKT BLOCK_DC_H2_OPA2156 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_OPA2156
*
.SUBCKT BLOCK_DC_H3_OPA2156 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_OPA2156
*
.SUBCKT BLOCK_DC_S1_OPA2156 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S1_OPA2156
*
.SUBCKT BLOCK_DC_S2_OPA2156 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S2_OPA2156
*
.SUBCKT AOL_1_OPA2156 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPA2156
*
.SUBCKT AOL_2_OPA2156 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=0.558 IPOS=15.45 INEG=-15.57
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPA2156
*
.SUBCKT CLAMP_AMP_HI_OPA2156 VC+ VC- VIN COM VO+ VO- PARAMS: G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_OPA2156
*
.SUBCKT CLAMP_AMP_LO_OPA2156 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_OPA2156
*
.SUBCKT CLAWN_OPA2156 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,         2.00E-04)
+(12.528,    2.75E-04)
+(47.9195,   1.08E-03)
+(80.179,    1.98E-03)
+(101.477,   2.82E-03)
+(102.103,   4.76E-03)
+(102.4,     5.96E-03)
.ENDS  CLAWN_OPA2156
*
.SUBCKT CLAWP_OPA2156 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,         2.00E-04)
+(17.4342,   5.12E-04)
+(36.3221,   1.05E-03)
+(59.7645,   1.90E-03)
+(73.4458,   2.54E-03)
+(80.6903,   3.04E-03)
+(88.5304,   3.95E-03)
+(89.4341,   5.91E-03)
+(92,        1.80E-02)
.ENDS  CLAWP_OPA2156
*
.SUBCKT CLAW_SRC_OPA2156 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.12E1 INEG=-0.12E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_OPA2156
*
.SUBCKT CL_SRC_OPA2156 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.24E1 INEG=-0.24E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_OPA2156
*
.SUBCKT ESD_IN_OPA2156 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_OPA2156
*
.SUBCKT ESD_OUT_OPA2156 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_OPA2156
*
.SUBCKT FEMT_OPA2156 1 2 PARAMS: NVRF=19.4
E1 3 0 5 0 10
R1 5 0 {1.184*PWR(NVRF,2)}
R2 5 0 {1.184*PWR(NVRF,2)}
G1 1 2 3 0 1E-6
.ENDS  FEMT_OPA2156
*
.SUBCKT GR_SRC_OPA2156 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=8.82E1 INEG=-8.82E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_OPA2156
*
.SUBCKT IQ_SRC_OPA2156 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPA2156
*
.SUBCKT OL_SENSE_OPA2156 COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS  OL_SENSE_OPA2156
*
.SUBCKT SW_OL_OPA2156 SW_OL_OPA2156 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E12 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_OPA2156 MID OL_SW
.ENDS  SW_OL_OPA2156
*
.SUBCKT VCM_CLAMP_OPA2156 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPA2156
*
.SUBCKT VNSE_OPA2156 1 2 PARAMS: FLW=0.01 GLF=0.534 RNV=9.415
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPA2156
*
.SUBCKT VOS_DRIFT_OPA2156 VOS+ VOS- PARAMS: DC=13.6E-6 POL=1 DRIFT=5E-7
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPA2156
*
.SUBCKT VOS_VS_VCM_OPA2156 V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(1.6, 125E-6)
+(2.1, 25E-6)
+(3, 15E-6)
+(4, 15E-6)
+(4.3, 0)
E2 1 V- TABLE {(V(V-, REF-))}=
+(-0.1, -35E-6)
+(0, -10E-6)
+(0.1, 0)
.ENDS  VOS_VS_VCM_OPA2156
*
.SUBCKT ZO_SRC_OPA2156 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E2 IPOS=4E5 INEG=-4E5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_OPA2156
*
